US06777407B2
B. Methyl (2S)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl)Amino]-3-Hydroxypropanoate
Following the procedure of method 7C, methyl (2S)-3-hydroxy-2-[(1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoate (8.9 mmol, 2.7 g) was hydrogenated using 5% Pd/C (2 g) and concentrated HCl (10 mL) in methanol (25 mL) to yield the crude product (8.9 mmol, 2.7 g, quantitative).

reactant | methyl (2S)-3-hydroxy-2-[(1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoate | 8.9 mmol, 2.7 g | OC[C@@H](C(=O)OC)NC(=O)C1=CC=CC=2C3=C(NC12)CCC3 | C16H18N2O4
reactant | HCl | 10 mL | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | Methyl (2S)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl)Amino]-3-Hydroxypropanoate | 8.9 mmol, 2.7 g | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@H](C(=O)OC)CO | C16H20N2O4
